US05594138
1,2-Bis(4-bromobenzoyl)-1-methoxyethane.
To a solution of 1,2-dibromo-1,2-di(4-bromobenzoyl) ethane (11.1 g, 0.02 mole) in 150 mL dry methanol was added a solution of sodium methoxide in methanol (0.92 g sodium in 50 mL methanol). The yellow brown mixture was refluxed for 1-1.5 hr. The solvent was removed by distillation, the residue was suspended in water and the mixture was extracted with 100 mL chloroform. The chloroform extract was washed with water, dried (Na2S04) and concentrated. The residue obtained was titrated with dry methanol-ether (3:1) to yield off-white crystalline solid, 6.6 g (78%), mp 153°-154° C. IR (KBr): 3106, 3062, 2932, 1689, 1649, 1583, 1556, 1403, 1223, 1202, 1182, 1086, 1010, 1000, 857, 814, 738, 618, 472 cm-1. 1H (DMSO-d6 /40° C.): 7.95(d, 2H, J=7.8), 7.77 (4H, J=8.8), 7.72(d, 2H, J=7.8), 6.89 (s, 1H), 4.03 (s, 3H). 13C (DMSO-d6 /40° C.): 189.9, 187.2, 168.8, 139.9, 135.9, 133.1, 132.2, 131.8, 130.3, 128.1, 127.4, 98.6, 58.5. MS m/e 424 (M+).

reactant | 1,2-dibromo-1,2-di(4-bromobenzoyl) ethane | 0.02 mole, 11.1 g | BrC(C(C(C1=CC=C(C=C1)Br)=O)Br)C(C1=CC=C(C=C1)Br)=O | C16H10Br4O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | methanol | 150 mL | CO | CH4O
solvent | methanol | 50 mL, 0.92 g | CO | CH4O
product | 1,2-Bis(4-bromobenzoyl)-1-methoxyethane | BrC1=CC=C(C(=O)C(CC(C2=CC=C(C=C2)Br)=O)OC)C=C1 | C17H14Br2O3
